US08003800B2
To a solution of 3-{4-[5-(4-isobutyl-3-methyl-thiophen-2-yl)-[1,3,4]oxadiazol-2-yl]-2,6-dimethyl-phenoxy}-propane-1,2-diol (90 mg, 0.22 mmol) in THF (4 mL) are added NEt3 (0.14 mL) and, subsequently, methanesulfonlychloride (0.02 mL, 0.26 mmol). The mixture is stirred at rt for 3 h. A solution of NH3 in MeOH (7M, 4 mL) is added and the mixture is heated at 60° C. for 15 h. The mixture is evaporated, 1M aq. NaOH (3 mL) is added and the mixture is extracted with EA (2×20 mL). The organic extracts are dried (Na2SO4), filtered and evaporated to give crude 1-amino-3-{4-[5-(4-isobutyl-3-methyl-thiophen-2-yl)-[1,3,4]oxadiazol-2-yl]-2,6-dimethylphenoxy}-propan-2-ol; LC-MS: tR=0.86 min, [M+1]+=416.32.

reactant | 3-{4-[5-(4-isobutyl-3-methyl-thiophen-2-yl)-[1,3,4]oxadiazol-2-yl]-2,6-dimethyl-phenoxy}-propane-1,2-diol | 0.22 mmol, 90 mg | C(C(C)C)C=1C(=C(SC1)C1=NN=C(O1)C1=CC(=C(OCC(CO)O)C(=C1)C)C)C | C22H28N2O4S
reactant | NEt3 | 0.14 mL | CCN(CC)CC | C6H15N
reactant | methanesulfonlychloride | 0.26 mmol, 0.02 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | NH3 | N | H3N
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | MeOH | 7M, 4 mL | CO | CH4O
product | 1-amino-3-{4-[5-(4-isobutyl-3-methyl-thiophen-2-yl)-[1,3,4]oxadiazol-2-yl]-2,6-dimethylphenoxy}-propan-2-ol | NCC(COC1=C(C=C(C=C1C)C=1OC(=NN1)C=1SC=C(C1C)CC(C)C)C)O | C22H29N3O3S
